US06211199B1
Combine 1-(t-butoxycarbonyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine (25 mmol), (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (30 mmol), and N,N-diisopropylethylamine (18 mL, 101 mmol) in acetonitrile (300 mL). Heat to reflux. After 18 hours, evaporate in vacuo to give a residue. Chromatograph the residue on silica gel to give 1-(t-butoxycarbonyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine.

reactant | 1-(t-butoxycarbonyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | 25 mmol | C(C)(C)(C)OC(=O)N1CC(CC1)(CCOS(=O)(=O)C)C1=CC=CC=C1 | C18H27NO5S
reactant | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 30 mmol | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
reactant | N,N-diisopropylethylamine | 101 mmol, 18 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | 1-(t-butoxycarbonyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | C(C)(C)(C)OC(=O)N1CC(CC1)(C1=CC=CC=C1)CCN1CCC(CC1)NC1=NC2=C(N1CCOCC)C=CC=C2 | C33H47N5O3
